US09302996B2
Palladium chloride (dppf) methylene chloride complex (0.193 g) was added to a mixture of 2-bromo-5-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]pyridine (1.0 g), (4-benzyloxyphenyl)boronic acid (1.08 g), 2M aqueous sodium carbonate solution (4.74 mL) and N,N-dimethylformamide (18.9 mL) under nitrogen atmosphere, and the mixture was stirred at 65° C. under nitrogen atmosphere overnight. To the mixture were added water and ethyl acetate, and then, insoluble material was removed by filtration using Celite. The organic layer was separated, washed with saline, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=88:12 to 80:20) to obtain 2-[4-(benzyloxy)phenyl]-5-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]pyridine (1.038 g).

reactant | 2-bromo-5-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]pyridine | 1.0 g | BrC1=NC=C(C=C1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C | C15H19BrF3N3OSi
reactant | (4-benzyloxyphenyl)boronic acid | 1.08 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C13H13BO3
reactant | sodium carbonate | 2M, 4.74 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | 18.9 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-[4-(benzyloxy)phenyl]-5-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]pyridine | 1.038 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NC=C(C=C1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C | C28H30F3N3O2Si
